US08026257B2
(±)-tert-Butyl 4-((1-(5-bromo-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (543 mg, 0.819 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 10 mL) and stirred at room temperature for 4 h. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. After washing with several volumes of methanol, the product was eluted with 2M ammonia in methanol. Concentration gave the crude piperidine. The piperidine was dissolved in dichloromethane (5 mL) and treated with di-tert-butyl dicarbonate (224 mg, 1.02 mmol). After 1 h, the reaction was quenched by addition of 2M ammonia in methanol and concentrated. The residue was suspended in water and extracted with diethyl ether. The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (EtOAc/Hex) gave 420 mg (96%). 1H-NMR (CDCl3, 500 MHz) δ 10.05 (bs, 1H), 7.89 (s, 1H), 7.71 (d, J=1.8, 1H), 7.23 (m, 2H), 7.08 (d, J=1.5, 1H), 7.02 (m, 2H), 4.48 (q, J=6.7, 1H), 3.70 (m, 2H), 3.34 (d, J=9.2, 1H), 3.23 (d, J=8.9, 1H), 3.03 (m, 1H), 2.95 (m, 1H), 2.21 (m, 1H), 2.03 (m, 1H), 1.82 (m, 1H), 1.72 (m, 1H), 1.41 (s, 9H), 1.40 (d, J=6.7, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 162.6, 160.6, 155.0, 138.1, 135.9, 133.7, 128.7 (d, J=7.7), 127.9, 126.5, 125.5, 122.3, 115.7, 115.6, 113.6, 79.6, 78.6, 78.0, 41.2, 40.1, 32.5, 32.1, 28.5, 22.2, 14.3.

reactant | (±)-tert-Butyl 4-((1-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.819 mmol, 543 mg | BrC=1C=C2C=NN(C2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | di-tert-butyl dicarbonate | 1.02 mmol, 224 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (±)-tert-Butyl 4-((1-(5-bromo-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | BrC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C26H31BrFN3O3
